US08404859B2
Preparation of 5-[1-(3-hydroxy-phenyl)-ethyl-carbamoyl]-3-methyl-thiophene-2-carboxylic acid methyl ester
To a solution of 3-methyl-thiophene-2,5-dicarboxylic acid 2-methyl ester (0.1 g, 0.5 mmol) and 3-(1-amino-ethyl)-phenol (82 mg, 0.6 mmol) in DMF (4 ml) was added at rt triethylamine (0.1 ml, 0.75 mmol), HOBT (81 mg, 0.6 mmol) and HBTU (228 mg, 0.6 mmol). The mixture was stirred at rt for 30 min, then quenched with 1NHCl and extracted with EtOAc. The layers were separated. The organic layer was washed with brine, then dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash chromatography with 30-70% EtOAc in hexane to afford the desired product (121 mg, 75% yield).

reactant | 3-methyl-thiophene-2,5-dicarboxylic acid 2-methyl ester | 0.5 mmol, 0.1 g | COC(=O)C=1SC(=CC1C)C(=O)O | C8H8O4S
reactant | 3-(1-amino-ethyl)-phenol | 0.6 mmol, 82 mg | NC(C)C=1C=C(C=CC1)O | C8H11NO
reactant | triethylamine | 0.75 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.6 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 0.6 mmol, 228 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 5-[1-(3-hydroxy-phenyl)-ethyl-carbamoyl]-3-methyl-thiophene-2-carboxylic acid methyl ester | 121 mg, 75% yield | COC(=O)C=1SC(=CC1C)C(NC(C)C1=CC(=CC=C1)O)=O | C16H17NO4S
